Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
abdominal pain, diarrhea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with history of Ulcerative
Colitis on balsalazide who presents with abdominal pain, 
vomiting
and diarrhea.

She was in her usual state of health until 10:30AM when she
developed two hours of diarrhea and vomiting, accompanied by
epigastric pain. She reports that two weeks ago, she had similar
symptoms for about two days, which self-resolved.

She presented to urgent care at ___, where she was
given 2L IVF. She had a CT scan showed diffuse active
inflammation of the transverse colon as well as question of
hyperenhancement of the small bowel in the left lateral abdomen
that suggests enteritis, possibly inflammatory versus infectious
but unable to exclude ischemic cause. She was referred into the
ED after this workup.

Regarding her chronic UC, which she has had for 13+ years, she
has occasional flares treated with increasing her dose of
balsalazide. She has had annual colonoscopies, with the most
recent on ___ showing mild inflammation throughout much of
the colon.

She is currently taking balsalazide 3g once daily (vs. 1.5g 
twice
daily). In her past flares, she has had some diarrhea but
generally not pain or vomiting. In the last few years, she
endorses about 1 or 2 flares a year. In the past with flares she
simply watches what she eats and they tend to resolve within a
few days.

Currently she feels tired and thirsty. No pain at the moment
except for discomfort of IV.

On review of systems, she endorsed feeling weak and dehydrated
with bilateral lower extremity myalgias and cramping. She also
endorsed fatigue for the past two weeks but attributed this to
returning back to her job as a ___ ___.
She endorses feeling cold with rigors.
She denied black or bloody stool, fever, or dizziness.
Her history is significant for recent travel to ___

In the ED:
- Initial vital signs were notable for:
T 98.6  HR 85  BP 129/73 RR 20  O2 Sat 96% RA 

- Exam notable for:
NAD
Moist mucous membranes
RRR, no m/r/g
Lungs clear
Abdomen soft, nondistended, nontender
Extremities no edema, warm and well perfused

- Labs were notable for:
At urgent care---
-- Chem panel: Cr 1.5, otherwise unremarkable; P 5.0
-- LFTs: AP 109, Albumin 5.4, otherwise unremarkable
-- CRP 2.2
-- CBC: WBC 14.1, Hgb 15.9, Plt 255 (88.6% PMNs)

Here:
-- Lactate 2.6
-- CRP 16.1
-- UA with 30 protein

No imaging performed other than the ___ CT which shows:

CT A/P with contrast
1. Suggestion of diffuse submucosal fat deposition throughout 
the
large bowel, consistent with chronic history of ulcerative
colitis. Mild diffuse submucosal hyperenhancement, particularly
of the transverse colon, without significant pericolonic
stranding, suggestive of mild diffuse active inflammation. 

2. Questionable hyperenhancement of small bowel in the left
lateral abdomen with mild mesenteric stranding suggests
enteritis, inflammatory versus infectious, with ischemic 
etiology
not excluded given the segmental distribution. 

- Patient was given:
2L LR (second liter running on transfer)

- Consults:
GI: Recommended checking C. diff and stool studies; if C. diff 
is
negative, recommend starting IV methylprednisone 20mg q8h; plan
for colonoscopy on ___

Vitals on transfer:  
T 98.1  HR 62  BP 104/64  RR 18  O2 Sat 96% RA 

Upon arrival to the floor, she reports no pain or discomfort.
Unfortunately, she had a bowel movement right after arrival 
which
was not saved. She will give us her next stool sample. She
reports she is very tired and wants to sleep but otherwise 
denies
any other concerns.

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.

 
Past Medical History:
- Ulcerative colitis, diagnosed ___
- ___
- Ankle surgery last year
 
Social History:
___
Family History:
Mother- deceased at ___, had diabetes, CAD s/p CABG
Father- deceased at ___, had HTN, colon polyps
Sister- living, colon polyps
Health brothers x 2 
___- deceased at ___, colon cancer
PGM- deceased at ___, colon cancer
PGM- deceased at ___, stroke
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T 97.8 BP 117 / 70 HR 68 RR 18 O2 Sat 94 RA 
GENERAL: Alert and interactive. In no acute distress.
EYES: NCAT. PERRL, EOMI. 
ENT: MMM.
CARDIAC: Regular rhythm, normal rate. No murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. Normal work of 
breathing
ABDOMEN: Normal bowels sounds, non distended, non-tender.
MSK: No edema.
SKIN: Warm. No significant rash. Slight rosacea overlying
eyelids.
NEUROLOGIC: Nonfocal. Grossly normal neuro exam.
PSYCH: appropriate mood and affect

DISCHARGE PHYSICAL EXAM
GENERAL: Alert and interactive. In no acute distress.
EYES: NCAT. PERRL, EOMI. 
ENT: MMM.
CARDIAC: Regular rhythm, normal rate. No murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. Normal work of 
breathing
ABDOMEN: Normal bowels sounds, non distended, non-tender.
MSK: No edema.
SKIN: Warm. No significant rash. Slight rosacea overlying
eyelids.
NEUROLOGIC: Nonfocal. Grossly normal neuro exam.
PSYCH: appropriate mood and affect
 
Pertinent Results:
ADMISSION LABS
___ 03:03PM BLOOD WBC-14.1* RBC-5.31* Hgb-15.9* Hct-47.1* 
MCV-89 MCH-29.9 MCHC-33.8 RDW-12.9 RDWSD-41.9 Plt ___
___ 03:03PM BLOOD Neuts-88.6* Lymphs-4.5* Monos-5.5 
Eos-0.5* Baso-0.4 Im ___ AbsNeut-12.48* AbsLymp-0.63* 
AbsMono-0.77 AbsEos-0.07 AbsBaso-0.05
___ 03:03PM BLOOD Glucose-120* UreaN-17 Creat-1.5* Na-141 
K-4.9 Cl-99 HCO3-24 AnGap-18
___ 03:03PM BLOOD ALT-15 AST-26 AlkPhos-109* TotBili-0.7
___ 03:03PM BLOOD Lipase-26
___ 03:03PM BLOOD Albumin-5.4* Calcium-10.6* Phos-5.0* 
Mg-1.9
___ 03:03PM BLOOD CRP-2.2
___ 01:07AM BLOOD Lactate-2.6*

IMAGING

CT ABD WITH CONTRAST ___. Suggestion of diffuse submucosal fat deposition throughout 
the large bowel, 
consistent with chronic history of ulcerative colitis.  Mild 
diffuse 
submucosal hyperenhancement, particularly of the transverse 
colon, without 
significant pericolonic stranding, suggestive of mild diffuse 
active 
inflammation. 
2. Questionable hyperenhancement of small bowel in the left 
lateral abdomen 
with mild mesenteric stranding suggests enteritis, inflammatory 
versus 
infectious, with ischemic etiology not excluded given the 
segmental 
distribution. 

CTA ABD AND PELVIS ___
  
1. There is no evidence of ischemic bowel. Vessels of the 
abdomen pelvis are 
unremarkable. 
2. The bowel is nonobstructed. There are no findings on CT to 
explain the 
patient's nausea and vomiting. 
3. There is mild edema of the descending colon and rectum which 
could be 
secondary to ulcerative colitis. 

DISCHARGE LABS

___ 10:19AM BLOOD WBC-4.8 RBC-4.09 Hgb-12.0 Hct-37.0 MCV-91 
MCH-29.3 MCHC-32.4 RDW-13.1 RDWSD-43.2 Plt ___
___ 10:19AM BLOOD Glucose-93 UreaN-12 Creat-0.9 Na-142 
K-3.7 Cl-108 HCO3-23 AnGap-11
___ 10:19AM BLOOD Albumin-3.8 Calcium-8.9 Phos-2.6* Mg-1.9
___ 01:16AM BLOOD CRP-16.1*
___ 10:19AM BLOOD CRP-17.6*
___ 06:35AM BLOOD Lactate-0.9
___ 10:42AM BLOOD Lactate-1.___RIEF HOSPITAL COURSE
=====================
Dr. ___ is a ___ year old woman with history of ulcerative 
colitis on balsalazide who presented on ___ with abdominal 
pain, vomiting, and diarrhea for several hours with CT imaging 
concerning for colitis and labs showing acute kidney injury. 
Symptoms resolved over the next ___ hours and acute kidney injury 
resolved with IV fluids. Patient was seen by the GI service. 
Given the course of this illness, unlikely to be due to 
ulcerative colitis flare. CTA abdomen and pelvis was performed 
which ruled out ischemic bowel but showed some mild edema of the 
descending colon and rectum that could be secondary to 
ulcerative colitis. On discharge she feels well and has an 
appointment with GI Dr. ___ follow up on ___.

TRANSITIONAL ISSUES
===================
[] Please ensure patient keeps follow up with Dr. ___ on ___
[] patient has a flow murmur
[] CRP 17.6 on discharge, please repeat to ensure normalization

ACUTE ISSUES:
=============
# Colitis:
# History of ulcerative colitis, long-standing.
Patient presented with mild epigastric pain associated with 
vomiting and diarrhea for 1 day, with CT findings showing 
concern for UC flare vs. infection. Her most recent colonoscopy 
performed on ___ shows congestion, edema, erythema, 
friability, and mucoid exudate, punctate mucoid apthae 
suggesting chronic inactive vs. mildly active colitis. By the 
time she was admitted, her symptoms were almost fully resolved. 
C. diff and stool studies were sent off and are pending. She was 
seen by GI who felt this is not consistent with ulcerative 
colitis flare due to short time course, vomiting, non-bloody 
stools. Chose to rule out bowel ischemia with CTA abdomen and 
pelvis given history of some post-prandial discomfort recently 
and elevated lactate the day prior when she presented to urgent 
care. CTA was negative for bowel ischemia. Symptoms are fully 
resolved on discharge and the patient will follow up with Dr. 
___ on ___. Patient is instructed to continue balsalazide 3 g 
daily as usual.

# Leukocytosis: WBC 14 with neutrophilic predominance.
# Lactic acidosis: Lactate 2.6. Could be elevated in setting of
colitis (whether ischemic or infectious, as above). Resolved 
following fluid repletion. CTA abdomen and pelvis ruled out 
bowel ischemia. Encouraged increased PO intake as she got 
contrast and had ___ on admission.

# ___: Cr 1.5, with no known prior history of CKD. Likely 
prerenal in setting of significant GI losses via diarrhea and 
emesis; concentrated urine. Resolved on labs the following 
morning with creatinine 0.9, following fluid repletion. Received 
IV contrast for CTA afterwards, however. Encouraged to drink 
plenty of fluids in the coming days.

CHRONIC ISSUES:
===============
# Rosacea: Diagnosed ___ years ago
Held topicals. Okay to restart.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. balsalazide 3000 mg oral DAILY 
2. Vitamin D ___ UNIT PO DAILY 
3. Fluocinolone Acetonide 0.01% Solution 1 Appl TP BID:PRN 
rash/pruritis 
4. Ketoconazole Shampoo 1 Appl TP ASDIR 
5. tacrolimus 0.1 % topical BID 

 
Discharge Medications:
1.  balsalazide 3000 mg oral DAILY  
2.  Fluocinolone Acetonide 0.01% Solution 1 Appl TP BID:PRN 
rash/pruritis  
3.  Ketoconazole Shampoo 1 Appl TP ASDIR  
4.  tacrolimus 0.1 % topical BID  
5.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
-----------------
Gastroenteritis
Acute kidney injury

SECONDARY DIAGNOSIS
-------------------
Ulcerative colitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,
  
 ___ was a pleasure taking care of you at the ___ 
___!  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You came to the hospital because you had vomiting, diarrhea, 
and abdominal pain that caused dehydration requiring intravenous 
fluids and there was concern for an ulcerative colitis flare.   

 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
 -  In the hospital you received IV fluids
 -  You were seen by the gastroenterologists who determined that 
your symptoms were probably not related to ulcerative colitis
 -  You underwent a CT scan with contrast that showed that your 
symptoms were not due to bowel ischemia 
 -  It was determined that your symptoms were probably due to 
infectious gastroenteritis 

 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
 - Please continue to take all of your medications as directed
 - Please follow up with all the appointments scheduled with 
your doctor
 - You have an appointment scheduled with Dr. ___ on ___ at 
9:15AM. Please call to confirm at ___.
 - Please drink lots of fluids!

 Thank you for allowing us to be involved in your care, we wish 
you all the best!  
 Your ___ Healthcare Team  

 
Followup Instructions:
___